US08426437B2
Trifluoroacetic acid (1 mL) is added slowly to a solution of 95 mg (0.2 mmol) of 8-(tert-butoxycarbonylmethyl-methyl-sulfamoyl)-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-propyl carboxylate dissolved in 9 mL of dichloroethane. The solution is stirred at room temperature for 5 hours then the solvents are evaporated. The residue is taken up and triturated in acetonitrile then in diisopropyl ether to give 76 mg (90%) of 8-(carboxymethyl-methyl-sulfamoyl)-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-propyl carboxylate in the form of a white solid.

reactant | Trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 8-(tert-butoxycarbonylmethyl-methyl-sulfamoyl)-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline 1-propyl carboxylate | 0.2 mmol, 95 mg | C(C)(C)(C)OC(=O)CN(S(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3)C.C(CC)C(=O)[O-]
solvent | dichloroethane | 9 mL | ClC(C)Cl | C2H4Cl2
product | 8-(carboxymethyl-methyl-sulfamoyl)-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline 1-propyl carboxylate | 76 mg, 90% | C(=O)(O)CN(S(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3)C.C(CC)C(=O)[O-] | InChI=1S/C14H13N3O5S.C4H8O2/c1-17(7-12(18)19)23(21,22)8-2-3-11-10(6-8)9-4-5-15-13(9)14(20)16-11;1-2-3-4(5)6/h2-6,15H,7H2,1H3,(H,16,20)(H,18,19);2-3H2,1H3,(H,5,6)/p-1
